US08217064B2
A mixture of ethyl 2-(3-bromo-5-chloro-4-(cyclopropylmethoxy)phenyl)acetate (4 g, 0.01 mmol), 4-Trifluoromethyl phenylboronic acid (2.6 g, 0.012 mol), Palladium Tetrakis(triphenylphosphine) (1.3 g, 0.001 mol), Cesium carbonate (13.1 g, 0.04 mol) in DMF/water mixture (100 ml/5 ml) was stirred overnight at 100° C. Upon completion of reaction, the precipitate were removed by filtration. The filtrate was diluted with water and extracted with EtOAc twice. The combined organic layers were washed with water and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by Flash Column Chromatography to give ethyl 2-(5-chloro-6-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)acetate in 57% yield. (2.7 g). 1H NMR (CDCl3): 7.69 (bs, 4H); 7.36 (s, 1H); 7.17 (s, 1H); 4.18 (q, 2H); 3.59 (s, 2H); 3.39 (d, 2H); 1.28 (t, 3H); 0.96 (m, 1H); 0.41 (m, 2H); 0.01 (m, 2H).

reactant | ethyl 2-(3-bromo-5-chloro-4-(cyclopropylmethoxy)phenyl)acetate | 0.01 mmol, 4 g | BrC=1C=C(C=C(C1OCC1CC1)Cl)CC(=O)OCC | C14H16BrClO3
reactant | 4-Trifluoromethyl phenylboronic acid | 0.012 mol, 2.6 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | Cesium carbonate | 0.04 mol, 13.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF water | 100 ml | CN(C)C=O.O
catalyst | Palladium Tetrakis(triphenylphosphine) | 0.001 mol, 1.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | ethyl 2-(5-chloro-6-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)acetate | 57% yield | ClC=1C=C(C=C(C1OCC1CC1)C1=CC=C(C=C1)C(F)(F)F)CC(=O)OCC | C21H20ClF3O3
